US05025036
A mixture of 1.31 g (2.6 mmol) of 1-(6-iodohexyl)-2,3-bis(phenylmethoxy)benzene, 0.74 g (2.6 mmol) of 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester and 0.54 g (3.9 mmol) of potassium carbonate in 35 mL of acetone was stirred at reflux for 39 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to an oil which was purified by HPLC using 8% ethyl acetate-hexane to give 1.03 g (60% yield) of 2-hydroxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester as an oil.

reactant | 1-(6-iodohexyl)-2,3-bis(phenylmethoxy)benzene | 2.6 mmol, 1.31 g | ICCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29IO2
reactant | 2,4-dihydroxy-3-propylbenzoic acid phenylmethyl ester | 2.6 mmol, 0.74 g | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)O)CCC)O)=O | C17H18O4
reactant | potassium carbonate | 3.9 mmol, 0.54 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 35 mL | CC(=O)C | C3H6O
product | 2-hydroxy-4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]-3-propylbenzoic acid phenylmethyl ester | 1.03 g, 60% yield | C1(=CC=CC=C1)COC(C1=C(C(=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)CCC)O)=O | C43H46O6
